US07071216B2
A solution of {4-[2-methoxy-4-(methylamino)-5-nitrophenoxy](2-pyridyl)}-N-methylcarboxamide. In methanol was hydrogenated with 10% Pd/C. The catalyst was filtered off and the solvent was concentrated to yield {4-[3-amino-6-methoxy-4-(methylamino)phenoxy](2-pyridyl)}-N-methylcarboxamide. MS :MH+: 302.

reactant | {4-[2-methoxy-4-(methylamino)-5-nitrophenoxy](2-pyridyl)}-N-methylcarboxamide | COC1=C(OC2=CC(=NC=C2)C(=O)NC)C=C(C(=C1)NC)[N+](=O)[O-] | C15H16N4O5
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | {4-[3-amino-6-methoxy-4-(methylamino)phenoxy](2-pyridyl)}-N-methylcarboxamide | NC=1C=C(OC2=CC(=NC=C2)C(=O)NC)C(=CC1NC)OC | C15H18N4O3
